US06919343B2
To a solution of 2-fluoro-4-bromo-benzaldehyde (20.0 g, 98.5 mmol) in 500 mL of THF at 0° C. was added slowly a solution methyllithium (1.4 M in Et2O, 70.3 mL). After one hour the reaction was carefully quenched with saturated aqueous ammonium chloride, extracted with diethyl ether, washed with saturated NaCl, dried over MgSO4, and concentrated. A solution of the crude alcohol in 200 mL of CH2Cl2 and TEA (14.0 mL, 100 mmol) at 0° C. was added methanesulfonyl chloride (7.42 mL, 95.9 mmol) over a period of five minutes. After and overnight reaction period, the reaction was extracted with CH2Cl2, washed with NaHCO3, saturated NaCl, dried over MgSO4, and concentrated. A solution of the crude mesylate in 50 mL of DMF was treated with sodium azide (12.5 g, 191 mmol) overnight. The reaction was extracted with EtOAc, washed with NaHCO3, saturated NaCl, dried over MgSO4, and concentrated. To a solution of the crude azide in 100 mL of THF was triethylphosphine (1 M in THF, 90.1 mL) over a period of 30 minutes. After one hour, 100 mL of 1 N HCl was added and the mixture was heated overnight. The mixture was cooled and washed with Et2O. The aqueous layer was made basic by the addition of potassium carbonate, extracted with Et2O, dried over MgSO4, and concentrated. A solution of the crude amine (9.0 g, 41.2 mmol) in 50 mL of CH2Cl2 was treated with Boc anhydride (9.00 g, 41.2 mmol). After one hour the mixture was concentrated. A solution of the crude carbamate in 40 mL of DMSO was added potassium acetate (12.1 g, 123.1 mmol), bis(pinacolato)diboron (11.5 g, 45.4 mmol), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (1.4 g, 1.8 mmol). The resulting mixture was heated at 80° C. for 16 hours. After cooling to room temperature, the mixture was partitioned between water and EtOAc. The organic extract was washed with brine, dried over MgSO4, filtered and concentrated under vacuum. The residue was subjected to silica gel chromatography eluted with 20% ethyl acetate in hexanes to provide tert-butyl 1-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethylcarbamate as a tacky solid that gave a proton NMR consistent with theory.

reactant | 2-fluoro-4-bromo-benzaldehyde | 98.5 mmol, 20.0 g | FC1=C(C=O)C=CC(=C1)Br | C7H4BrFO
reactant | methyllithium | 1.4 M, 70.3 mL | C[Li]
reactant | methanesulfonyl chloride | 95.9 mmol, 7.42 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | sodium azide | 191 mmol, 12.5 g | [N-]=[N+]=[N-].[Na+]
reactant | Boc anhydride | 41.2 mmol, 9.00 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | carbamate | C(N)([O-])=O
reactant | potassium acetate | 123.1 mmol, 12.1 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 45.4 mmol, 11.5 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 1.8 mmol, 1.4 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 1-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethylcarbamate | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C(C)NC(OC(C)(C)C)=O | C19H29BFNO4
